US07157487B2
In DMF (6 ml) were dissolved 2-(2-methylphenylamino)-6-benzoxazolylacetic acid (154 mg, 0.55 mmol) and methyl 4-(2-(N-methylamino)ethoxy)benzoate (117 mg, 0.55 mmol). To the resulting solution were added EDC HCl (157 mg, 0.81 mmol), HOBt (5 mg, 0.04 mmol), and DMAP (5 mg, 0.04 mmol). The resulting mixture was stirred at room temperature for 18 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform-methanol (10:1, v/v) eluate fractions, methyl 4-(2-((2-(2-methylphenylamino)-6-benzoxazolyl)-N-methylacetamido)ethoxy)benzoate (207 mg, 80%) was obtained as a yellow oil.

reactant | 2-(2-methylphenylamino)-6-benzoxazolylacetic acid | 0.55 mmol, 154 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O | C16H14N2O3
reactant | methyl 4-(2-(N-methylamino)ethoxy)benzoate | 0.55 mmol, 117 mg | CNCCOC1=CC=C(C(=O)OC)C=C1 | C11H15NO3
reactant | EDC HCl | 0.81 mmol, 157 mg | CCN=C=NCCCN(C)C.Cl
reactant | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.04 mmol, 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | HOBt | 0.04 mmol, 5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | methyl 4-(2-((2-(2-methylphenylamino)-6-benzoxazolyl)-N-methylacetamido)ethoxy)benzoate | 207 mg, 80% | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N(C)CCOC2=CC=C(C(=O)OC)C=C2 | C27H27N3O5
